US06087480
0.001 g of ammonium vanadate and 0.5 g of titanium dioxide extrudate containing 1% by weight of metallic palladium and having a particle size of 3 mm (from Johnson Matthey) are added to a suspension consisting of 50 ml of water and 2.5 g of 4-nitro-N-butylphthalimide. After displacing the air with nitrogen, the latter is replaced by hydrogen at atmospheric pressure and the suspension is stirred at 65° C. for 68 hours. During this time, 97% of the theoretical amount of hydrogen, based on the 4-nitro-N-butylphthalimide, is absorbed. The resulting suspension is then sieved through a sieve having a mesh width of 1 mm. The material remaining on the sieve is washed with 50 ml of water and the combined aqueous phases are then filtered through a paper filter and washed with 250 ml of water. Drying at 80° C. under reduced pressure (125 mbar) gives 1.7 g (80%) of 4-amino-N-butylphthalimide.

reactant | 4-nitro-N-butylphthalimide | 2.5 g | [N+](=O)([O-])C=1C=C2C(C(=O)N(C2=O)CCCC)=CC1 | C12H12N2O4
reactant | hydrogen | [H][H] | H2
catalyst | ammonium vanadate | 0.001 g | N.O[V](=O)=O
catalyst | titanium dioxide | 0.5 g | [O-2].[O-2].[Ti+4]
catalyst | palladium | [Pd] | Pd
solvent | water | 50 ml | O | H2O
product | 4-amino-N-butylphthalimide | 1.7 g, 80% | NC=1C=C2C(C(=O)N(C2=O)CCCC)=CC1 | C12H14N2O2
